US04393059
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 1.35 g.), conc. hydrochloric acid (3.926 g.), methanol (20 ml.), water (10 ml.) and tetrahydrofuran (40 ml.) was stirred at 30° C. for 6 hours. The resultant solution was concentrated in vacuo in order to evaporate the methanol, and the aqueous solution obtained was adjusted to pH 4.2 with 10% aqueous solution of sodium hydroxide. The solution was adjusted to pH 3.0 with 10% hydrochloric acid. The precipitates were collected by filtration and dried to give 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.8 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 1.35 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC(=O)O | C15H13N5O8S2
reactant | hydrochloric acid | 3.926 g | Cl | ClH
reactant | methanol | 20 ml | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.8 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC(=O)O | C14H13N5O7S2
